US07371765B2
To a suspension of 4-chloro-6-cyano-7-hydroxyquinoline (400 mg, 1.95 mmol), (prepared as described for the starting material in Example 1), 4-(2-hydroxyethoxy)tetrahydropyran (371 mg, 2.54 mmol) and triphenylphosphine (820 mg, 3.12 mmol) in methylene choride (15 ml) was added diethyl azodicarboxylate (492 μl, 3.12 mmol) in portions. After stirring for 30 minutes, triphenylphosphine (512 mg, 1.95 mmol), 4-(2-hydroxyethoxy)-tetrahydropyran (142 mg, 0.98 mmol) and diethyl azodicarboxylate (308 μl, 1.95 mmol) were added. The volatiles were removed under vacuum and the residue was purified by column chrolatography eluting with methylene chloride/ethyl actetate/methanol (60/40/0 followed by 50/50/0, 40/60/0, 60/39/1, 60/38/2 and 50/46/4) to give 4-chloro-6-cyano-7-(2-(tetrahydropyran-4-yloxy)ethoxy)quinoline (519 mg, 65%).

reactant | 4-chloro-6-cyano-7-hydroxyquinoline | 1.95 mmol, 400 mg | ClC1=CC=NC2=CC(=C(C=C12)C#N)O | C10H5ClN2O
reactant | 4-(2-hydroxyethoxy)tetrahydropyran | 2.54 mmol, 371 mg | OCCOC1CCOCC1 | C7H14O3
reactant | triphenylphosphine | 3.12 mmol, 820 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.12 mmol, 492 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 1.95 mmol, 512 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(2-hydroxyethoxy)-tetrahydropyran | 0.98 mmol, 142 mg | OCCOC1CCOCC1 | C7H14O3
reactant | diethyl azodicarboxylate | 1.95 mmol, 308 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene choride | 15 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-6-cyano-7-(2-(tetrahydropyran-4-yloxy)ethoxy)quinoline | 519 mg, 65% | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCOC1CCOCC1 | C17H17ClN2O3
